US04892578
This compound was prepared in a manner analogous to that of Example 10, using 2.0 grams (0.004 mole) of 2-[[2-bromo-4-[(2-carboxyphenyl)carbonylamino]phenyl]-methyl]-4,4-dimethyl-3-isoxazolidinone and 5.0 grams (0.061 mole) of sodium acetate in 50 mL of acetic anhydride. The solid was recrystallized from ethyl acetatehexane to yield 2-[(2-bromo-4-phthalimidophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone; m.p. 158°-159° C.

reactant | 2-[[2-bromo-4-[(2-carboxyphenyl)carbonylamino]phenyl]-methyl]-4,4-dimethyl-3-isoxazolidinone | 0.004 mole, 2.0 grams | BrC1=C(C=CC(=C1)NC(=O)C1=C(C=CC=C1)C(=O)O)CN1OCC(C1=O)(C)C | C20H19BrN2O5
reactant | sodium acetate | 0.061 mole, 5.0 grams | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-[(2-bromo-4-phthalimidophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone | BrC1=C(C=CC(=C1)N1C(C=2C(C1=O)=CC=CC2)=O)CN2OCC(C2=O)(C)C | C20H17BrN2O4
